US07807676B2
To a solution of 1-(4-methoxy-7-(1H-pyrazol-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (0.069 g, 0.138 mmol) in DMF (3 mL) was added NaH (0.055 g, 1.381 mmol). The mixture was stirred for ten minutes and MeI (0.017 mL, 0.276 mmol) was added. After being stirred for 45 minutes, the mixture was quenched with water. The mixture was concentrated under reduced pressure. The resulting residue was diluted with DMF and was passed through a plug of cotton to remove solids. The DMF solution was purified by prep HPLC to give 1-(4-methoxy-7-(1-methyl-1H-pyrazol-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione as a light-yellow solid (0.017 g, 0.033 mmol, 33.1% yield). 1H NMR (500 MHz, DMSO-D6) δ ppm 12.37 (s, 1H) 8.67 (dd, J=4.88, 1.22 Hz, 1H) 8.33 (s, 1H) 8.13-8.18 (m, 1H) 8.05 (s, 1H) 7.93 (d, J=2.14 Hz, 1H) 7.85 (d, J=7.93 Hz, 1H) 7.64 (dd, J=7.48, 4.73 Hz, 1H) 6.99 (s, 1H) 4.05 (s, 3H) 4.00 (s, 3H) 3.70-3.74 (m, 2H) 3.40-3.48 (m, 4H) 3.24-3.29 (m, 2H). LCMS: m/e 514.38 (M+H)+, ret time 1.820 min (method 1).

reactant | 1-(4-methoxy-7-(1H-pyrazol-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.138 mmol, 0.069 g | COC1=C2C(=C(N=C1)C1=NNC=C1)NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O | C23H21N11O3
reactant | NaH | 1.381 mmol, 0.055 g | [H-].[Na+]
reactant | MeI | 0.276 mmol, 0.017 mL | CI | CH3I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-(4-methoxy-7-(1-methyl-1H-pyrazol-3-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-(pyridin-2-yl)-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.033 mmol, 0.017 g, 33.1% yield | COC1=C2C(=C(N=C1)C1=NN(C=C1)C)NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=NC=CC=C2)=O | C24H23N11O3
